US03975310
In a typical experiment 10.7 g. of Mg turnings and 5 g. of allyl bromide were allowed to react in 70 ml. of dry ether. The reaction was exothermic and the temperature of the reaction mixture increased up to the boiling point of the solvent. To this solution allyl bromide (46 g.) and β-cyclocitral (61 6.) in 160 ml. of ether were added with vigorous stirring at such a rate as to maintain the ether at the boiling temperature. The reaction mixture was then kept at reflux during 6 hours and after cooling it was poured into a ice-cold concentrated aqueous solution of NH4C1. The ethereal layer after the usual treatments gave 2,6,6-trimethyl-1-[1-hydroxy-3-butenyl]-1-cyclohexene (44.5 g; 57 % yield): B.p. 60°-2° /0.001 Torr; nD20 = 1.4964; d420 = 0.9398.

reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | allyl bromide | 46 g | C(C=C)Br | C3H5Br
reactant | β-cyclocitral | CC1=C(C(CCC1)(C)C)C=O | C10H16O
solvent | ether | CCOCC | C4H10O
product | 2,6,6-trimethyl-1-[1-hydroxy-3-butenyl]-1-cyclohexene | 44.5 g, 57 % yield | CC1=C(C(CCC1)(C)C)C(CC=C)O | C13H22O
